US07101891B2
3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester
Add BH3.SMe2 (3.2 mL, 6.4 mmol, 2.0 M in THF) to a solution of 5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (1.5 g, 3.2 mmol) in THF (20 mL) at 0° C. Remove the ice bath and stir for 30 min. Quench dropwise with MeOH and concentrate to dryness. Partition between 20% iPrOH/CHCl3 and water. Wash 2× sat. aq NaHCO3, wash 2× brine, dry over Na2SO4, filter and concentrate to dryness. Purify by radial chromatography using MeOH/CHCl3 as eluant and concentrate to dryness to afford the title compound (0.95 g, 66%) as a white foam as a mixture of cis isomers. MS(IS) 448.2 (M+); HPLC (40% IPA 60% heptane on a Chiralpak AD (0.46×25 cm) 1.5 mL/min flow; 25 μL Inj.; 225 nM) Rt=3.28 min (72.1%), 4.48 min (27.8%).

reactant | SMe2 | 6.4 mmol, 2.0 M, 3.2 mL | S(C)C | C2H6S
reactant | 5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 3.2 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CC(CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)C(=O)O | C22H24ClN3O6
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.95 g, 66% | C(C)(C)(C)OC(=O)N1CC(CC(C1)CO)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C22H26ClN3O5
